US08247595B2
To a solution of 2.0 g of 4-pentynyl p-toluenesulfonate and 2.0 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 30 ml of dimethyl sulfoxide, 1.2 g of potassium carbonate was added at room temperature. The mixture was stirred at 60° C. for 4 hours and at 90° C. for 1 hour, and then allowed to stand near room temperature. To the reaction mixture, 10% hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.90 g of methyl 2-(3,3,3-trifluoropropylsulfonyl)-6-heptynoate (hereinafter referred to as the present compound (11)).

reactant | 4-pentynyl p-toluenesulfonate | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC#C)C | C12H14O3S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.0 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | methyl 2-(3,3,3-trifluoropropylsulfonyl)-6-heptynoate | 0.90 g | FC(CCS(=O)(=O)C(C(=O)OC)CCCC#C)(F)F | C11H15F3O4S
